US07465809B2
N-(4-Cyano-3-trifluoromethyl-phenyl)-2,2,2-trifluoro-N-(2-methyl-acryloyl)-acetamide
N-(4-Cyano-3-trifluoromethyl-phenyl)-2-methyl-acrylamide (4.4 mmoL) in DCM (15 mL) was reacted with pyridine (6 mL) followed by trifluoroacetic anhydride (4.4 mmoL) at 0° C. The reaction mixture was slowly warmed to room temperature. The reaction mixture was partitioned between DCM and water. The DCM layer was washed with saturated sodium bicarbonate, then brine, dried over anhydrous Na2SO4, filtered and concentrated to yield a yellow oil. The crude material (the yellow oil) was purified by column chromatography (silica gel, using ethyl acetate as eluent) to yield the title compound as a yellow solid.

reactant | N-(4-Cyano-3-trifluoromethyl-phenyl)-2-methyl-acrylamide | C(#N)C1=C(C=C(C=C1)NC(C(=C)C)=O)C(F)(F)F | C12H9F3N2O
reactant | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Cyano-3-trifluoromethyl-phenyl)-2,2,2-trifluoro-N-(2-methyl-acryloyl)-acetamide | C(#N)C1=C(C=C(C=C1)N(C(C(F)(F)F)=O)C(C(=C)C)=O)C(F)(F)F | C14H8F6N2O2
